US06316436B1
Preparation of 3-[3-(4-cyano-3-fluoro-benzyl)-3H-imidazol-4-yl]-propionic Acid
1-Trityl-imidazole-4-propionic acid methyl ester (2.15 g, 5.42 mmol) and 4-bromomethyl-2-fluoro-benzonitrile, as described above in Step D, (1.16 g, 5.42 mmol) were dissolved in EtOAc (20 mL) and heated at 60° C. for 3 h. The precipitated solid was filtered off, and the filtrate was concentrated to 10 mL then heating at 60° C. was continued overnight. The precipitate was collected and combined with the first solid and heated at reflux in CH3OH (20 mL) for 5 h. The reaction mixture was concentrated to dryness and triturated with hexane to remove triphenylmethane. The residue was dissolved in THF (10 mL)-H2O (5 mL), treated with 1 N NaOH (5 mL) and stirred at ambient temperature for 16 h. The reaction mixture was neutralized with 1N HCl (5 mL), concentrated to remove the THF, then lyophilized to give the title compound.

reactant | 1-Trityl-imidazole-4-propionic acid methyl ester | 5.42 mmol, 2.15 g | COC(CCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H24N2O2
reactant | 4-bromomethyl-2-fluoro-benzonitrile | BrCC1=CC(=C(C#N)C=C1)F | C8H5BrFN
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 3-[3-(4-cyano-3-fluoro-benzyl)-3H-imidazol-4-yl]-propionic Acid | C(#N)C1=C(C=C(CN2C=NC=C2CCC(=O)O)C=C1)F | C14H12FN3O2
